US08017779B2
7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.75 g), 1,4-butanesultam (0.29 g), copper(I) iodide (68 mg), (±)-trans-1,2-diaminocyclohexane (42 μL), potassium phosphate (0.79 g) and dioxane (4 mL) were added to a scintillation vial. The vial was flushed with nitrogen, sealed with a Teflon-lined cap, placed in an oil bath, and heated at 110° C. for 30 hours. The reaction was cooled to ambient temperature, diluted with chloroform and filtered through a bed of CELITE filter agent. The solvent was evaporated and the residue was purified by column chromatography on a Biotage Horizon™ High-Performance Flash Chromatography instrument using a silica gel cartridge. The polar component of the eluent was chloroform:methanol:ammonium hydroxide 80:18:2 (CMA). The purification was carried out eluting with chloroform:CMA in a gradient from 99:1 to 90:10. Additional purification by recrystallization from acetonitrile provided 0.47 g of 7-(1,1-dioxo-[1,2]thiazinan-2-yl)-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine as pale yellow crystals, mp 172-174° C.

reactant | 7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.75 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCCOC(C)C)COCC | C19H25BrN4O2
reactant | 1,4-butanesultam | 0.29 g | C1CCS(=O)(=O)NC1 | C4H9NO2S
reactant | (±)-trans-1,2-diaminocyclohexane | 42 μL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | potassium phosphate | 0.79 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper(I) iodide | 68 mg | [Cu]I
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 7-(1,1-dioxo-[1,2]thiazinan-2-yl)-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.47 g | O=S1(N(CCCC1)C=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCCOC(C)C)COCC)=O | C23H33N5O4S
